US08729112B2
4-(Chloromethyl)-1,4-dimethylimidazolidin-2-one
A solution of 4-(hydroxymethyl)-1,4-dimethylimidazolidin-2-one (3.3 g, 22.7 mmol), anhydrous pyridine (8.25 ml, 102 mmol), and thionyl chloride (8.26 ml, 114 mmol) in 46 ml of 1,2-dichloroethane was heated at reflux temperature for 8 hours. The reaction mixture was concentrated under reduced pressure, diluted with dichloromethane, and filtered to remove solids. The organic layer was washed with once 2 N HCl, which was back-extracted three times with dichloromethane, and the combined organic fractions were dried over sodium sulfate and concentrated to 2.2 g of yellow oil. The crude product was purified by column chromatorgraphy, eluting from silica gel with a gradient of 0-10% methanol in dichloromethane to give 897 mg of desired product as a white solid (25% yield). 1H NMR (400 MHz, CDCl3) δ 1.42 (s, 3H), 2.79 (s, 3H), 3.17-3.20 (d, J=9.2 Hz, 1H), 3.36-3.39 (d, J=9.2 Hz, 1H), 3.50 (s, 2H). 13C NMR (100 MHz, CDCl3) δ 24.2, 30.3, 51.5, 55.0, 57.0, 160.6. LRMS (ESI/APCI): 163 [M+H]+.

reactant | 4-(hydroxymethyl)-1,4-dimethylimidazolidin-2-one | 22.7 mmol, 3.3 g | OCC1(NC(N(C1)C)=O)C | C6H12N2O2
reactant | pyridine | 102 mmol, 8.25 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 114 mmol, 8.26 ml | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 46 ml | ClCCCl | C2H4Cl2
product | 4-(Chloromethyl)-1,4-dimethylimidazolidin-2-one | 897 mg, 25% yield | ClCC1(NC(N(C1)C)=O)C | C6H11ClN2O
